* SKY130 Bandgap Voltage Reference
* Classic PTAT + CTAT using parasitic PNP BJTs
* Vref = VBE_Q3 + (Rout/Rptat) * VT * ln(N)

.lib "sky130_models/sky130.lib.spice" tt

* Supply
Vdd vdd 0 dc 1.8 ac 1
Vss vss 0 0

* === Core: Two PNP branches with different emitter counts ===

* Branch 1: single PNP (1x), diode-connected (base=collector=vss)
XQ1 vss vss n1 vss sky130_fd_pr__pnp_05v5_W0p68L0p68 m=1

* Branch 2: 8 parallel PNPs (8x), diode-connected (base=collector=vss)
XQ2 vss vss n2 vss sky130_fd_pr__pnp_05v5_W0p68L0p68 m=8

* PTAT resistor between emitters
Rptat n1 n2 {Rptat}

* === Current mirror forces equal currents through both branches ===
XMp1 n1 n1 vdd vdd sky130_fd_pr__pfet_01v8 W={Wm}u L={Lm}u nf=1
XMp2 n2 n1 vdd vdd sky130_fd_pr__pfet_01v8 W={Wm}u L={Lm}u nf=1
XMp3 vref n1 vdd vdd sky130_fd_pr__pfet_01v8 W={Wm}u L={Lm}u nf=1

* === Output: VBE (CTAT) + I_ptat * Rout (PTAT) = bandgap voltage ===
* Q3 diode-connected PNP provides CTAT VBE
XQ3 vss vss nq3 vss sky130_fd_pr__pnp_05v5_W0p68L0p68 m=1

* Rout converts PTAT current to voltage on top of VBE
Rout vref nq3 {Rout}

* === Startup circuit: ensures circuit exits zero-current state ===
* At power-up, vref=0 → Ms2 OFF → nstart pulled to VDD via Rstart
* → Ms1 ON → pulls n1 low → mirror turns on → circuit starts
* Once vref rises → Ms2 ON → nstart pulled low → Ms1 OFF → startup disengaged
Rstart nstart vdd {Rstart}
XMs1 n1 nstart vss vss sky130_fd_pr__nfet_01v8 W={Wstart}u L=1u nf=1
XMs2 nstart vref vss vss sky130_fd_pr__nfet_01v8 W=1u L=1u nf=1

* === Measurements ===
.control
* DC operating point at 27C
op
let vref_val = v(vref)
echo "RESULT_VREF_V" $&vref_val
let pwr = abs(v(vdd) * i(Vdd)) * 1e6
echo "RESULT_POWER_UW" $&pwr
destroy all

* Temperature sweep for tempco
dc temp -40 125 1
let vref_max = vecmax(v(vref))
let vref_min = vecmin(v(vref))
let vref_nom = (vref_max + vref_min) / 2
let tempco_val = (vref_max - vref_min) / vref_nom / 165 * 1e6
echo "RESULT_TEMPCO_PPM" $&tempco_val
destroy all

* PSRR: AC analysis at nominal operating point (must be before DC sweeps)
op
ac dec 100 1 1G
meas ac psrr_gain find vdb(vref) at=100
let psrr_val = -psrr_gain
echo "RESULT_PSRR_DB" $&psrr_val
destroy all

* Line regulation: sweep VDD from 1.4 to 2.2
dc Vdd 1.4 2.2 0.01
let vref_first = v(vref)[0]
let vref_last = v(vref)[length(v(vref))-1]
let line_reg = abs(vref_last - vref_first) / 0.8 * 1000
echo "RESULT_LINE_REG_MV_V" $&line_reg

echo "RESULT_DONE"
.endc

.end
